US07759369B2
Sodium 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarboxylate
Ethyl 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarboxylate (421.4 mg, 0.97 mmol) was suspended in ethanol (4 ml) and 2M sodium hydroxide (1 ml) and heated at 90° C. for 1.75 hours. Reaction complete after about 1 hour.

reactant | Ethyl 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarboxylate | 0.97 mmol, 421.4 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)OCC)OCC1=C(C=C(C=C1)Cl)F | C22H18Cl2FNO3
reactant | sodium hydroxide | 2M, 1 ml | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Sodium 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)methyl]-2-pyridinecarboxylate | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)[O-])OCC1=C(C=C(C=C1)Cl)F.[Na+] | InChI=1S/C20H14Cl2FNO3.Na/c21-14-6-7-19(27-11-12-4-5-15(22)10-17(12)23)13(8-14)9-16-2-1-3-18(24-16)20(25)26;/h1-8,10H,9,11H2,(H,25,26);/q;+1/p-1
